US05082841
3-Butyryl-4-(2-methylphenylamino)-8-hydroxyquinoline (3.2 g, 10 mmol) was dried by azeotroping with toluene, then dissolved in dry ethanol (20 ml). Sodium (0.23 g, 10 mmol) was dissolved in ethanol (15 ml), and added to the hydroxyquinoline. The resulting solution was evaporated, and the solid redissolved in toluene (50 ml). 3-chloro-N-methyl-N-(3-phenylpropyl)-1-propylamine hydrochloride (1.5 g, 5.7 mmol) was added and the mixture heated at reflux under nitrogen for 3 hours. Evaporation of the solvent, chromatography (silica gel, 0-3% methanolic ammonia in chloroform) and crystallisation from ether gave 3-butyryl-4-(2-methylphenylamino)-8-(3-(N-methyl-N-(3-phenylpropyl)amino)propoxy)quinoline (0.9 g, 18%), m.p. 79°-81°.

reactant | 3-Butyryl-4-(2-methylphenylamino)-8-hydroxyquinoline | 10 mmol, 3.2 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)O | C20H20N2O2
reactant | Sodium | 10 mmol, 0.23 g | [Na] | Na
reactant | hydroxyquinoline | OC1=NC2=CC=CC=C2C=C1 | C9H7NO
reactant | 3-chloro-N-methyl-N-(3-phenylpropyl)-1-propylamine hydrochloride | 5.7 mmol, 1.5 g | Cl.ClCCCN(CCCC1=CC=CC=C1)C
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-butyryl-4-(2-methylphenylamino)-8-(3-(N-methyl-N-(3-phenylpropyl)amino)propoxy)quinoline | 0.9 g, 18% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCCN(CCCC1=CC=CC=C1)C | C33H39N3O2
